US05536701
3,5-Bis[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine (Compound No. 11, 1.50 g, 0.004 moles) and methylamine (3.1 mL of a 40% aqueous solution, 0.04 mole) were refluxed under N2 in tetrahydrofuran (100 mL) for 24 h. The mixture was then partitioned between ethyl acetate and water. The organic layer was dried (MgSO4), filtered and evaporated to give a crude solid which was purified by silica gel chromatography. N-Methyl-6-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-4-pyridazinamine (0.6 g, 55% yield) was obtained as a light brown solid which was recrystallized from ethyl acetate/cyclohexane.

reactant | 3,5-Bis[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | CN1N=C(C=C1OC=1N=NC=C(C1)OC1=CC(=NN1C)C(F)(F)F)C(F)(F)F | C14H10F6N6O2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-Methyl-6-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-4-pyridazinamine | 0.6 g, 55% yield | CNC1=CN=NC(=C1)OC1=CC(=NN1C)C(F)(F)F | C10H10F3N5O
